US08735384B2
Iodine (0.827 g, 3.26 mmol) and pyridine (0.263 mL, 3.26 mmol) were added to 2-iodo-3-methyl-N-(pyridin-2-ylmethyl)benzothioamide (0.40 g, 1.086 mmol) in THF (2.2 mL) at 0° C. The solution was allowed to warm to RT and stirred 15 min. The reaction mixture was diluted with saturated sodium bicarbonate and aq. sodium sulfite and extracted with EtOAc. The combined organic extracts were washed with saturated sodium bicarbonate, water, saturated sodium chloride, and dried over sodium sulfate. The solution was filtered and concentrated in vacuo to give the crude material. The crude material was purified by silica gel chromatography by eluting with 1:1.5 EtOAc in hexane to provide 3-(2-iodo-3-methylphenyl)imidazo[1,5-a]pyridine.

reactant | Iodine | 3.26 mmol, 0.827 g | II | I2
reactant | pyridine | 3.26 mmol, 0.263 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-iodo-3-methyl-N-(pyridin-2-ylmethyl)benzothioamide | 1.086 mmol, 0.40 g | IC1=C(C(NCC2=NC=CC=C2)=S)C=CC=C1C | C14H13IN2S
solvent | THF | 2.2 mL | C1CCOC1 | C4H8O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
product | 3-(2-iodo-3-methylphenyl)imidazo[1,5-a]pyridine | IC1=C(C=CC=C1C)C1=NC=C2N1C=CC=C2 | C14H11IN2
